US08486953B2
Methyl 4-(4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenylamino)thieno[2,3-d]pyrimidine-6-carboxylate
Methyl 4-chlorothieno[2,3-d]pyrimidine-6-carboxylate (0.256 g, 1.12 mmol), 4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)aniline (0.236 g, 1.12 mmol) and para-toluene sulfonic acid (0.021 g, 0.01 mmol) were heated at reflux in anhydrous 1,4-dioxane (6 mL) for 4 hours. The solution was cooled, concentrated in vacuo and the crude product absorbed on to silica. The sample was purified by flash column chromatography (100% DCM→10% MeOH/DCM) to yield the title compound (0.220 g, 49%) after recrystallisation from MeOH.

reactant | Methyl 4-chlorothieno[2,3-d]pyrimidine-6-carboxylate | 1.12 mmol, 0.256 g | ClC=1C2=C(N=CN1)SC(=C2)C(=O)OC | C8H5ClN2O2S
reactant | 4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)aniline | 1.12 mmol, 0.236 g | FC1=CC(=C(N)C=C1)OC1CCOCC1 | C11H14FNO2
reactant | para-toluene sulfonic acid | 0.01 mmol, 0.021 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | Methyl 4-(4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenylamino)thieno[2,3-d]pyrimidine-6-carboxylate | 0.220 g, 49% | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2)C(=O)OC)OC2CCOCC2 | C19H18FN3O4S
